US08071568B2
Step 1: (2S)-2-[(tert-butoxycarbonyl)-amino]-propyl pivalate
To a solution of the commercially available tert-butyl[(1S)-2-hydroxy-1-methylethyl]carbamate (1.0 eq.) in DCM (0.19M), pivaloyl chloride (1.1 eq.) and Et3N (1.1 eq.) were added. The reaction mixture was stirred at RT for 48 h, then water was added and the organic phase was separated and washed with 10% aqueous citric acid. The residue was purified by column chromatography on silica gel eluting with 92:8 PE/EtOAc.

reactant | tert-butyl[(1S)-2-hydroxy-1-methylethyl]carbamate | 1.0 eq. | C(C)(C)(C)OC(N[C@H](CO)C)=O | C8H17NO3
reactant | pivaloyl chloride | 1.1 eq. | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | Et3N | 1.1 eq. | CCN(CC)CC | C6H15N
reactant | water | O | H2O
solvent | DCM | 0.19M | C(Cl)Cl | CH2Cl2
product | (2S)-2-[(tert-butoxycarbonyl)-amino]-propyl pivalate | C(C(C)(C)C)(=O)OC[C@H](C)NC(=O)OC(C)(C)C | C13H25NO4
